US05112834
A. 8-amino-2-methyl-imidazo[1,2-a]pyridine-hydrobromide
A solution of 16.5 g 2-methyl-8-nitro-imidazo[1,2-a]pyridine-hydrobromide in 800 ml methanol is saturated with hydrogen at room temperature at low pressure for 8 hours after addition of a catalytic amount of commercial Pd/C-catalyst. The catalyst is then filtered off and the filtrate evaporated until dry. After recrystallization from acetronitrile 11.9 g of the title compound of m.p. 237°-238° C. is obtained.

reactant | 2-methyl-8-nitro-imidazo[1,2-a]pyridine-hydrobromide | 16.5 g | Br.CC=1N=C2N(C=CC=C2[N+](=O)[O-])C1
reactant | hydrogen | [H][H] | H2
solvent | methanol | 800 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 8-amino-2-methyl-imidazo[1,2-a]pyridine-hydrobromide | Br.NC=1C=2N(C=CC1)C=C(N2)C | InChI=1S/C8H9N3.BrH/c1-6-5-11-4-2-3-7(9)8(11)10-6;/h2-5H,9H2,1H3;1H
